* C:\Users\DG Maintenance\Documents\optirev2\LTSpice\Draft1.asc
V1 In 0 SINE(0 2 1K)
V2 Vcc 0 9
V3 Vss 0 -9
R3 N004 In 10k
R7 N001 N005 10k
XU4 0 N001 Vcc Vss N003 level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R8 N002 N001 10k
R10 N006 N005 20k
D1 N003 N001 D
D2 N002 N003 D
R5 N006 N002 10k
XU3 0 N006 Vcc Vss N007 level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R6 N007 N006 20k
R4 N009 N004 10k
XU2 N009 N005 Vss Vcc N005 level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C1 N009 0 10p
C2 N005 N004 47n
C3 N011 0 10µ
R1 N010 N007 1k
R2 N011 N010 {R}
XU1 N011 N008 Vcc Vss N008 level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R9 0 N008 1
.model D D
.lib C:\Users\DG Maintenance\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1s
*.step param V list 0 2 5
.step param R 1 10k 1000
.lib UniversalOpAmp3a.lib
.backanno
.end
