* C:\Users\DG Maintenance\Documents\optirev2\LTSpice\Draft4.asc
V1 N002 0 SINE(0 1 1K) AC 10
R1 N003 N002 {R}
C1 N003 0 3.3n
XU1 N003 N001 +9 0 N001 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V2 +9 0 9
.ac dec 10 10 22k
.step param R 1 100k 1k
.lib UniversalOpAmp1.lib
.backanno
.end
